US08026261B2
Preparation of 3-hydroxy-1,6-dimethyl-2-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one
A mixture of 5-hydroxy-1,2-dimethyl-1H-pyridin-4-one (9.40 g, 67.6 mmol), trifluoroacetaldehyde methyl hemiacetal (28 mL) and K2CO3 (1.40 g, 10.0 mmol) was sealed in a parallel reactor and stirred overnight at 130° C. The reaction mixture was evaporated to dryness, and the residue was purified by flash column chromatography using a mixture of i-PrOH and a 28-30% conc. NH4OH solution (70/30, v/v) as eluant. Fractions containing pure product were pooled together, and evaporated to give the title compound as a light orange powder (6.3 g, 39% yield). HPLC purity (peak area percent) of this compound is 99.8% at λ=254 nm using HPLC Method 2 as described above. 1H NMR (400 MHz, DMSO-D6) δ: 6.83 (br s, 2H, 20H), 6.21 (s, 1H), 5.88 (q, J=8.7 Hz, 1H), 3.73 (s, 3H, NCH3), 2.31 (s, 3H, CH3); MS m/z 238.1 [M+1]+, 220.2, 192.3, 172.3 (100%). A second less pure fraction of the title compound (7.0 g) was also obtained, and was used without further purification in step 1 of Example 14 below.

reactant | 5-hydroxy-1,2-dimethyl-1H-pyridin-4-one | 67.6 mmol, 9.40 g | OC=1C(C=C(N(C1)C)C)=O | C7H9NO2
reactant | trifluoroacetaldehyde methyl hemiacetal | 28 mL | COC(C(F)(F)F)O | C3H5F3O2
reactant | K2CO3 | 10.0 mmol, 1.40 g | C(=O)([O-])[O-].[K+].[K+]
product | 3-hydroxy-1,6-dimethyl-2-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one | 6.3 g, 39% yield | OC1=C(N(C(=CC1=O)C)C)C(C(F)(F)F)O | C9H10F3NO3
